US05264577
Step D: Preparation of α-Amino-9H-xanthene-9-acetic acid
α-Amino-9H-xanthene-9-acetic acid hydrochloride is dissolved in water and the pH of the solution is adjusted with dilute ammonium hydroxide solution to pH 7. The precipitate is collected by filtration, washed with water, boiled with water for a short time, cooled to room temperature, and collected to afford the title compound.

reactant | α-Amino-9H-xanthene-9-acetic acid hydrochloride | Cl.NC(C(=O)O)C1C2=CC=CC=C2OC=2C=CC=CC12
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | α-Amino-9H-xanthene-9-acetic acid | NC(C(=O)O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C15H13NO3
